US07989449B2
In an analogous reaction sequence to that described for Building Block C, the reaction of 4-fluoro-3-methoxyacetophenone with 3-bromophenyllithium yielded the (RS)-1-(3-bromo-phenyl)-1-(4-fluoro-3-methoxy-phenyl)-ethanol which was used as crude material in the following elimination reaction with a catalytic amount of p-toluenesulfonic acid to yield the title compound (yield: 91% of theory) as a light yellow oil. TLC: Rf: 0.69 (silica gel; heptane:ethyl acetate=4:1, UV, 254 nm).

reactant | 4-fluoro-3-methoxyacetophenone | CC(=O)C1=CC(=C(C=C1)F)OC | C9H9FO2
reactant | 3-bromophenyllithium | BrC=1C=C(C=CC1)[Li]
product | (RS)-1-(3-bromo-phenyl)-1-(4-fluoro-3-methoxy-phenyl)-ethanol | BrC=1C=C(C=CC1)C(C)(O)C1=CC(=C(C=C1)F)OC | C15H14BrFO2
